US08633173B2
[8-(2-Isobutoxy-5-trifluoromethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-(2,3,4,5-tetrahydro-1H-3-benzazepin-7yl)-amine was prepared from 7-[8-(2-isobutoxy-5-trifluoromethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino]-1,2,4,5-tetrahydro-3-benzazepine-3-carboxylic acid tert-butyl ester (0.263 g, 0.442 mmol) and trifluoroacetic acid (0.5 mL) in a manner analogous to Example 312 to give product (0.190 g, 87%). MP=102-103° C. 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 9.47 (s, 1H), 8.78 (d, 1H), 7.98 (s, 1H), 7.75 (d, 1H), 7.62 (d, 1H), 7.35 (m, 3H), 7.05 (t, 1H), 6.98 (d, 1H), 3.87 (d, 2H), 2.62-2.75 (br m, 9H), 1.85 (m, 1H), 0.81 (d, 6H). MS=496 (MH)+.

reactant | 7-[8-(2-isobutoxy-5-trifluoromethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino]-1,2,4,5-tetrahydro-3-benzazepine-3-carboxylic acid tert-butyl ester | 0.442 mmol, 0.263 g | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C=CC(=C2)NC2=NN1C(C(=CC=C1)C1=C(C=CC(=C1)C(F)(F)F)OCC(C)C)=N2 | C32H36F3N5O3
reactant | trifluoroacetic acid | 0.5 mL | FC(C(=O)O)(F)F | C2HF3O2
product | [8-(2-Isobutoxy-5-trifluoromethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-(2,3,4,5-tetrahydro-1H-3-benzazepin-7yl)-amine | C(C(C)C)OC1=C(C=C(C=C1)C(F)(F)F)C=1C=2N(C=CC1)N=C(N2)NC2=CC1=C(CCNCC1)C=C2 | C27H28F3N5O
